US09217062B2
Synthesis of 2-iodo-1,4-dimethoxybenzene (8) (See FIG. 4)
Following the procedure from a previous publication (0. V. Branytska et al., J. Org. Chem., 68, 9510-12 (2003)), a 350 ml heavy wall pressure vessel fitted with a stir bar was charged with p-dimethoxybenzene (20.00 g, 144.7 mmol), iodine (18.37 g, 72.37 mmol), oxidation catalyst H5PV2Mo10O40.34H2O (T. Onoda et al., U.S. Pat. No. 4,146,574 (Mar. 27, 1979)) (3.40 g, 1.45 mmol), and acetonitrile (1.8 M). The vessel was degassed via the freeze-pump-thaw method (2 times) and warmed to room temperature prior to being backfilled with oxygen (2 atm), heated to 80° C., and stirred for 12 hr. The crude reaction mixture was filtered to remove spent catalyst, then water (100 ml) was added and the product extracted into ethyl acetate (100 ml). The organic layer was washed with sodium thiosulfate (aq) and excess water. The organic layer was dried over MgSO4, filtered, and then concentrated by rotary evaporation. Ethanol (100 ml) was added to this crude material in which a white precipitate formed and was filtered via suction filtration yielding 1 as a byproduct. The supernate was concentrated via rotary evaporation and the resulting red oil distilled yielding starting material ˜60° C. at 50 mtorr and product 8 (29.2 g, 76%) at ˜115° C. at 50 mtorr as a clear oil. 1H NMR (300 MHz, CDCl3): δ 7.32 (d, 1H, J=2.94 Hz), 6.84 (dd, 1H, J=5.99 Hz), 6.73 (d, 1H, J=8.95 Hz), 3.81 (s, 3H), 3.73 (s, 3H). 13C NMR (60 MHz, acetone-d6): δ 154.78, 153.10, 125.09, 115.01, 112.21, 85.95, 56.76, 55.75.

reactant | p-dimethoxybenzene | 144.7 mmol, 20.00 g | COC1=CC=C(C=C1)OC | C8H10O2
reactant | iodine | 72.37 mmol, 18.37 g | II | I2
solvent | acetonitrile | 1.8 M | C(C)#N | C2H3N
product | 2-iodo-1,4-dimethoxybenzene | IC1=C(C=CC(=C1)OC)OC | C8H9IO2
